US04742060
A mixture of 2.7 g of 3-(2-chloro-5-pyridylmethyl)-2-nitromethylenethiazolidine and 8 ml of butyric anhydride was stirred for 8 hours at 60° C. under nitrogen atmosphere. The volatile material was then removed by distillation at 1 mmHg, keeping the bath temperature below 60° C. The residue was dissolved in dichloromethane and washed with 1% sodium hydroxide solution. The dichloromethane layer was then purified by chromatography on a silicagel column to give viscous oily 1-{3-(2-chloro-5-pyridylmethyl)thiazolidine-2-ylidene}-1-nitro-2-pentanone. The yield was 0.15 g.

reactant | 3-(2-chloro-5-pyridylmethyl)-2-nitromethylenethiazolidine | 2.7 g | ClC1=NC=C(C=C1)CN1C(SCC1)=C[N+](=O)[O-] | C10H10ClN3O2S
reactant | butyric anhydride | 8 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 1-{3-(2-chloro-5-pyridylmethyl)thiazolidine-2-ylidene}-1-nitro-2-pentanone | ClC1=NC=C(C=C1)CN1C(SCC1)=C(C(CCC)=O)[N+](=O)[O-] | C14H16ClN3O3S
